US05760041
N-(3-Bromophenyl)-4,6-quinazolindiamine
A mixture of 34.5 g of N-(3-bromophenyl)-6-nitro-4-quinazolinamine and 16.8 g of iron powder in 150 ml of ethanol and 150 ml of glacial acetic acid was heated in an oil bath at 120° C. for 2 hours. After filtration of the solid, solid sodium carbonate was added to the filtrate giving a solid. This was filtered, and the solid was extracted with methanol. The extracts were treated with charcoal and evaporated to a solid. After washing the solid with ether 27.5 g of N-(3-bromophenyl)-4,6-quinazolindiamine was obtained: mass spectrum (m/e): 315.

reactant | N-(3-bromophenyl)-6-nitro-4-quinazolinamine | 34.5 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C14H9BrN4O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 16.8 g | [Fe] | Fe
product | N-(3-Bromophenyl)-4,6-quinazolindiamine | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
